US08957093B2
Step 4: (R)-4′-((2,3-dimethyl-5-((2,2,2-trifluoro-1-(3-isopropylphenyl)ethyl)carbamoyl)-1H-indol-1-yl)methyl)-[1,1′-biphenyl]-2-carboxylic acid
The title compound was prepared following the same general protocol as described in Step 8-9, Example 1, using (R)-2,2,2-trifluoro-1-(3-isopropylphenyl)ethanamine and 1-((2′-(tert-butoxycarbonyl)-[1,1′-biphenyl]-4-yl)methyl)-2,3-dimethyl-1H-indole-5-carboxylic acid. ESI-MS (m/z): 599 [M+H]+.

reactant | (R)-2,2,2-trifluoro-1-(3-isopropylphenyl)ethanamine | FC([C@H](N)C1=CC(=CC=C1)C(C)C)(F)F | C11H14F3N
reactant | 1-((2′-(tert-butoxycarbonyl)-[1,1′-biphenyl]-4-yl)methyl)-2,3-dimethyl-1H-indole-5-carboxylic acid | C(C)(C)(C)OC(=O)C1=C(C=CC=C1)C1=CC=C(C=C1)CN1C(=C(C2=CC(=CC=C12)C(=O)O)C)C | C29H29NO4
product | (R)-4′-((2,3-dimethyl-5-((2,2,2-trifluoro-1-(3-isopropylphenyl)ethyl)carbamoyl)-1H-indol-1-yl)methyl)-[1,1′-biphenyl]-2-carboxylic acid | CC=1N(C2=CC=C(C=C2C1C)C(N[C@@H](C(F)(F)F)C1=CC(=CC=C1)C(C)C)=O)CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)O | C36H33F3N2O3
